US06943162B2
4-{2-[(4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-{4-[(2-methyl-1,3-thiazol-4-yl)methyl]-1-piperazinyl}-1,3,5-triazin-2-yl)amino]ethyl}phenol
The title compound was prepared in 50% yield via the procedure outlined for example 5 using 4-(2-{[4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-(1-piperazinyl)-1,3,5-triazin-2-yl]amino}ethyl)phenol and 4-chloromethyl-2-methylthiazole hydrochloride to give an off-white glass: 1H NMR (CDCl3, 400 MHz) δ 7.18 (d, 2H, J=8.0), 7.10-7.02 (m, 2H), 6.98-6.95 (m, 3H), 6.64 (d, 2H, J=8.0), 3.85-3.45 (m, 10H), 3.02 (s, 3H), 2.78-2.68 (m, 5H), 2.55-2.50 (m, 2H), 2.50-2.46 (m, 4H), 1.92-1.80 (m, 2H); low resolution MS (ES+) m/e 594 (MH+); TLC (CH2Cl2/EtOAc/MeOH (5:5:1)): Rf=0.50; Anal. calcd. for C30H37N8OSCl: C, 60.74; H, 6.29; N, 18.89. Found: C, 60.64; H, 6.26; N, 18.81.

reactant | 4-(2-{[4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-(1-piperazinyl)-1,3,5-triazin-2-yl]amino}ethyl)phenol | ClC1=CC=C(C=C1)CCCN(C1=NC(=NC(=N1)N1CCNCC1)NCCC1=CC=C(C=C1)O)C | C25H32ClN7O
reactant | 4-chloromethyl-2-methylthiazole hydrochloride | Cl.ClCC=1N=C(SC1)C
solvent | CH2Cl2 EtOAc MeOH | C(Cl)Cl.CCOC(=O)C.CO
product | 4-{2-[(4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-{4-[(2-methyl-1,3-thiazol-4-yl)methyl]-1-piperazinyl}-1,3,5-triazin-2-yl)amino]ethyl}phenol | 50% yield | ClC1=CC=C(C=C1)CCCN(C1=NC(=NC(=N1)N1CCN(CC1)CC=1N=C(SC1)C)NCCC1=CC=C(C=C1)O)C | C30H37ClN8OS
